US09403773B2
Aluminum chloride (108 mg, 0.81 mmol) was added to a dichloromethane solution (5 ml) of 5-fluoro-3-(4-isopropoxy-2-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (120 mg, 0.31 mmol). The mixture was stirred at room temperature for 1 hour. Water and dichloromethane were added to the reaction mixture, and separated. The organic layer was then washed with water. The washed organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (dichloromethane:methanol=10:1). The purified product was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to thereby obtain 100 mg of powdery white 5-fluoro-3-(4-hydroxy-2-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (yield: 90%).

reactant | Aluminum chloride | 0.81 mmol, 108 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-fluoro-3-(4-isopropoxy-2-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 0.31 mmol, 120 mg | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=C(C=C(C=C1)OC(C)C)OC)=O | C22H24FNO4
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-fluoro-3-(4-hydroxy-2-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 100 mg, yield: 90% | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=C(C=C(C=C1)O)OC)=O | C19H18FNO4
